US04058475
0.2mol of p-cyanobenzaldehyde and 0.3mol of malonic acid were dissolved in 80ml of pyridine at room temperature, and 30 drops of piperidine were added thereto. The mixture was heated and stirred for 4 hours at about 100° C. After the reaction, the solution was poured slowly into dilute hydrochloric acid (250ml hydrochloric acid/250g water). Then, the resulting white precipitate was separated by filtering and washed with dilute hydrochloric acid and water, and was recrystallized by use of glacial acetic acid to obtain p-cyanocinnamic acid. 0.3mol of thionyl chloride was added to 0.1mol of the p-cyanocinnamic acid and the mixture was heated and stirred at about 80° C for 3 hours. An excess thionyl chloride was then removed under reduced pressure to obtain p-cyanocinnamic acid chloride.

reactant | thionyl chloride | 0.3mol | S(=O)(Cl)Cl | Cl2OS
reactant | p-cyanocinnamic acid | 0.1mol | C(#N)C1=CC=C(C=CC(=O)O)C=C1 | C10H7NO2
product | p-cyanocinnamic acid chloride | C(#N)C1=CC=C(C=CC(=O)Cl)C=C1 | C10H6ClNO
